US07112594B2
5-amino-2-(3-hydroxy-2,2-dimethylpropoxy)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 2 using 2-chloro-5-nitrobenzonitrile (10 g) and 2,2-dimethyl-1,3-propanediol (5.7 g), the title compound (7.2 g) was obtained. melting point: 194-196° C.

reactant | 2-chloro-5-nitrobenzonitrile | 10 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 2,2-dimethyl-1,3-propanediol | 5.7 g | CC(CO)(CO)C | C5H12O2
product | 5-amino-2-(3-hydroxy-2,2-dimethylpropoxy)benzonitrile | 7.2 g | NC=1C=CC(=C(C#N)C1)OCC(CO)(C)C | C12H16N2O2
